US07897597B2
Ethoxyacetyl chloride (2.7 g, 22 mmol) was added dropwise to a solution of 7-(benzyloxy)-N5-(2-methylpropyl)tetraazolo[1,5-α]quinoline-4,5-diamine (7.6 g, 21 mmol) in 200 mL of pyridine. The solution was stirred for 1 hour and additional ethoxyacetyl chloride was added. The solution was refluxed overnight, after which the solvent was removed. The solid material was dissolved in 300 mL of chloroform and stirred with 150 mL of 1% aqueous sodium carbonate. The pH was adjusted to 10 with 10% sodium hydroxide. The organic fraction was washed with 2 portions of 1% sodium carbonate and once with brine solution. The organic fraction was then dried over sodium sulfate and concentrated to give 8.8 g of 8-(benzyloxy)-5-(ethoxymethyl)-6-(2-methylpropyl)-6H-imidazo[4,5-c]tetraazolo[1,5-α]quinoline as a tan solid. A small portion was recrystallized from ethanol to provide an analytical sample, mp 183.5-184.5° C.

reactant | Ethoxyacetyl chloride | 22 mmol, 2.7 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | 7-(benzyloxy)-N5-(2-methylpropyl)tetraazolo[1,5-α]quinoline-4,5-diamine | 21 mmol, 7.6 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=3N(C2=CC1)N=NN3)N)NCC(C)C | C20H22N6O
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
product | 8-(benzyloxy)-5-(ethoxymethyl)-6-(2-methylpropyl)-6H-imidazo[4,5-c]tetraazolo[1,5-α]quinoline | 8.8 g | C(C1=CC=CC=C1)OC=1C=C2C3=C(C=4N(C2=CC1)N=NN4)N=C(N3CC(C)C)COCC | C24H26N6O2
